US07572820B2
C. 4-Chloro-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-2-(3,3,3-trifluoropropyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 from 4-chloro-2-(3,3,3-trifluoropropyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole: 1H NMR (400 MHz, CDCl3) δ 8.31 (s, 1H), 8.23 (d, J=7.8 Hz, 1H), 7.86 (d, J=7.9 Hz, 1H), 7.67 (dd, J=7.8 Hz, 1H), 7.45 (s, 2H), 6.56 (s, 1H), 5.45 (s, 2H), 3.27 (t, 2H), 2.89-2.61 (m, 2H); MS (ES) m/z 499 (M+1).

reactant | 4-chloro-2-(3,3,3-trifluoropropyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)CCC(F)(F)F | C12H8ClF3N2
reactant | 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C10H6ClF3N2O
product | 4-Chloro-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-2-(3,3,3-trifluoropropyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F)CCC(F)(F)F | C22H13ClF6N4O
